US04787930
21.6 ml (0.18 mol) of t-butylnitrite are added dropwise to 20.6 g (0.06 mol) of 5-amino-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole in 100 ml (1.125 mol) of bromoform in the course of 10 minutes, while stirring, whereupon the temperature of the reaction mixture rises to 50° C. When the addition has ended, the mixture is stirred at the reflux temperature for a further two hours and is concentrated in vacuo, the residue is taken up in methylene chloride, the mixture is washed several times with saturated sodium bicarbonate solution, 2n-hydrochloric acid and water and dried over sodium sulphate and the solvent is stripped off in vacuo. 22 g (89.9% of theory) of 5-bromo-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole are obtained as a brown oil.

reactant | t-butylnitrite | 0.18 mol, 21.6 ml | C(C)(C)(C)ON=O | C4H9NO2
reactant | 5-amino-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 0.06 mol, 20.6 g | NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)[N+](=O)[O-] | C10H3F7N4O2
reactant | bromoform | 1.125 mol, 100 ml | C(Br)(Br)Br | CHBr3
product | 5-bromo-4-nitro-1-(2,3,5,6-tetrafluoro-4-trifluoromethyl-phenyl)-pyrazole | 22 g, 89.9% | BrC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)[N+](=O)[O-] | C10HBrF7N3O2
